US08455475B2
tert-Butyl 2-formyl-5-methyl-1H-pyrrole-1-carboxylate
To a solution of 5-methyl-1H-pyrrole-2-carbaldehyde (500 mg, 4.58 mmol, 1 eq.) in acetonitrile (10 ml) were added DMAP (46 mg, 0.36 mmol, 1 eq.) and (Boc)2O (1.19 g, 5.5 mmol, 1.2 eq.) and the mixture was stirred at RT for 2 h. The solvent was evaporated under reduced pressure and the crude product was purified by column chromatography (silica gel; 5% EtOAc/hexanes) to afford the desired product as a light yellow oil. Yield: 83% (800 mg, 3.8 mmol).

reactant | 5-methyl-1H-pyrrole-2-carbaldehyde | 4.58 mmol, 500 mg, 1 eq. | CC1=CC=C(N1)C=O | C6H7NO
reactant | (Boc)2O | 5.5 mmol, 1.19 g, 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | DMAP | 0.36 mmol, 46 mg, 1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 2-formyl-5-methyl-1H-pyrrole-1-carboxylate | Yield: 83% | C(=O)C=1N(C(=CC1)C)C(=O)OC(C)(C)C | C11H15NO3
